US09227969B2
NaHCO3 (11 g, 0.1309 mol) was added to a stirred solution of 2-((3S,4S)-4-(8-(2-chloro-4-(pyrimidin-2-yloxy)phenyl)-7-fluoro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)-3-fluoropiperidin-1-yl)-2-oxoethylacetate (8 g, 0.013 mol) in MeOH (300 mL) at RT and stirred for 24 h. The reaction was monitored by TLC (5% MeOH/DCM), after completion of reaction, the reaction mixture was filtered and wand washed with MeOH (100 mL). The filtrate was concentrated to remove methanol and the residue was dissolved in DCM (200 mL) and washed with water, brine solution, dried over sodium sulphate and evaporated under vacuum. The residue was purified by column chromatography on silica gel (0-4% MeOH/DCM) to afford the 1-((3S,4S)-4-(8-(2-chloro-4-(pyrimidin-2-yloxy)phenyl)-7-fluoro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)-3-fluoropiperidin-1-yl)-2-hydroxyethanone (6.0 g, 81% yield). Obtained solid was recrystallized in EtOH (alternatively in MeOH) 1HNMR (CDCl3, 400 MHz): δ 9.33 (s, 1H), 8.65-8.64 (d, 2H), 8.08-8.05 (d, 1H), 8.00-7.85 (m, 1H), 7.51-7.30 (m, 2H), 7.30-7.28 (dd, 1H), 7.15-7.13 (m, 1H), 5.65-5.25 (m, 1H), 4.96-4.75 (m, 1H), 4.35-4.15 (m, 2H), 3.92-3.74 (m, 2H), 3.35-3.15 (m, 1H), 3.05-2.85 (m, 2H), 2.80 (s, 3H), 2.45-2.15 (m, 2H); LCMS: 100%, m/z=565.1 (M+1); HPLC (Method-3): 99.80%, Chiral HPLC: 99.48%, rt=20.38 min., Column. AG/CHIRALPAK AD-H/03. Free Form

reactant | NaHCO3 | 0.1309 mol, 11 g | C(=O)(O)[O-].[Na+]
reactant | 2-((3S,4S)-4-(8-(2-chloro-4-(pyrimidin-2-yloxy)phenyl)-7-fluoro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)-3-fluoropiperidin-1-yl)-2-oxoethylacetate | 0.013 mol, 8 g | ClC1=C(C=CC(=C1)OC1=NC=CC=N1)C1=CC=2C3=C(C=NC2C=C1F)N=C(N3[C@@H]3[C@H](CN(CC3)C(C(=O)[O-])CC=O)F)C
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | MeOH | 300 mL | CO | CH4O
product | 1-((3S,4S)-4-(8-(2-chloro-4-(pyrimidin-2-yloxy)phenyl)-7-fluoro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)-3-fluoropiperidin-1-yl)-2-hydroxyethanone | 6.0 g, 81% yield | ClC1=C(C=CC(=C1)OC1=NC=CC=N1)C1=CC=2C3=C(C=NC2C=C1F)N=C(N3[C@@H]3[C@H](CN(CC3)C(CO)=O)F)C | C28H23ClF2N6O3
